US06569878B1
4-[4-Amino-2-(4-sulfamoyl-phenylamino)-thiazole-5-carbonyl]-benzoic Acid
To a suspension of ethyl 4-[4-amino-2-(4-sulfamoyl-phenylamino)-thiazole-5-carbonyl]-benzoate (500 mg, 1.12 mmol; Example C(34)) in MeOH (10 mL) was added 1N aq NaOH (3.4 mL, 3.4 mmol). After 4 hours, the resultant mixture was acidified with 1N aq HCl to pH 3 and filtered. The isolated brown solid crystallized in EtOH to provide 330 mg (70% yield) of light brown crystals, mp 298.5-300° C.

reactant | ethyl 4-[4-amino-2-(4-sulfamoyl-phenylamino)-thiazole-5-carbonyl]-benzoate | 1.12 mmol, 500 mg | NC=1N=C(SC1C(=O)C1=CC=C(C(=O)OCC)C=C1)NC1=CC=C(C=C1)S(N)(=O)=O | C19H18N4O5S2
reactant | NaOH | 3.4 mmol, 1N, 3.4 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | MeOH | 10 mL | CO | CH4O
product | 4-[4-Amino-2-(4-sulfamoyl-phenylamino)-thiazole-5-carbonyl]-benzoic Acid | 70% yield | NC=1N=C(SC1C(=O)C1=CC=C(C(=O)O)C=C1)NC1=CC=C(C=C1)S(N)(=O)=O | C17H14N4O5S2
